### PR TITLE
feat(Wikipedia): Conjecture on Diameter of non-abelian finite Simple Groups

### LINKED ISSUE #3429: Babai Conjecture: Diameter of Finite Simple Groups
### What is the conjecture

 Let $G$ be a finite simple non-abelian group and let $S$ be a symmetric generating set of $G$. The Cayley graph $\text{Cay}(G, S)$ has the elements of $G$ as vertices, with an edge between $g$ and $gs$ for each $g \in G$ and $s \in S$. The diameter $\text{diam}(\text{Cay}(G, S))$ is the maximum distance between any two vertices in this graph.

Babai's conjecture states that there exists an absolute constant $C$ such that for every finite simple non-abelian group $G$ with symmetric generating set $S$:
$$\text{diam}(\text{Cay}(G, S)) \leq (\log |G|)^C$$

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://en.wikipedia.org/wiki/Diameter_(group_theory), https://arxiv.org/abs/1109.3550, https://annals.math.princeton.edu/2014/179-2/p04, https://pages.uoregon.edu/kantor/PAPERS/STOCdiameter.pdf, https://arxiv.org/abs/2308.07086

### Prerequisites needed

**Formalizability Rating:** 3/5 (0 is best) (as of 2026-03-06)

Building blocks (1-3; from search results):
- Graph diameter concepts available in FormalConjecturesForMathlib/Combinatorics/SimpleGraph/DiamExtra.lean
- Finite group structure and generating sets in Mathlib.GroupTheory
- Cayley graphs representable as directed graphs with group-indexed edge relations

Missing pieces (exactly 2; unclear/absent from search results):
- Formal definition of Cayley graphs as a distinct type/structure in Mathlib (currently must be constructed via general graph definitions)
- Logarithm bounds and polynomial/exponential function hierarchies for group-theoretic diameter statements

Rating justification (1-2 sentences): The statement uses standard group-theoretic and graph concepts, but formalizing Cayley graphs as an explicit mathematical object and stating the logarithmic bound bound requires moderate supporting definitions beyond current Mathlib. The core group and graph infrastructure exists, but Cayley graphs need specialized treatment.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-20
* ams-05
* ams-68

### Choose either option

- [x] I plan on adding this conjecture to the repository
- [ ] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

If you have feedback on mistakes / hallucinations, feel free to just write it in the issue.See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

### PR DESCRIPTION
**Pull request by franzhusch**
Closes #3429 

Formalization done with the help of Claude Opus 4.6

I am quite surprised that Mathlib does not have a Cayley Graph definition...

### CODE REVIEW

File: FormalConjectures/Wikipedia/DiameterSimpleFiniteGroups.lean [hunk 1]
```diff
@@ -0,0 +1,84 @@
...
+-/
+
+namespace BabaiSeressConjectures
+
+/-- The (undirected) Cayley graph of a group $G$ with respect to a (symmetric) generating set $S$. Two elements $g, h \in G$ are
+adjacent iff $g^{-1} h \in S$.
+
+This is constructed using `SimpleGraph.fromRel`, which takes the relation
+$g \sim h \iff g^{-1} h \in S$ and automatically symmetrizes it (via disjunction with the
+reverse relation) and enforces irreflexivity (via $g \neq h$). -/
```
Comment (mo271) [inline FormalConjectures/Wikipedia/DiameterSimpleFiniteGroups.lean]:
```suggestion
/-- The (undirected) Cayley graph of a group $G$ with respect to a generating set $S$.
Two elements $g, h \in G$ are adjacent iff $g \neq h$ and
$g^{-1} h \in S$ or $h^{-1} g \in S$.

This is constructed using `SimpleGraph.fromRel`, which takes the relation
$g \sim h \iff g^{-1} h \in S$ and automatically symmetrizes it (via disjunction with the
reverse relation) and enforces irreflexivity (via $g \neq h$). In particular, this definition
effectively uses the symmetrization $S \cup S^{-1}$, so it produces a standard undirected
Cayley graph even when $S$ is not itself symmetric. -/
```

Especially the "(symmetric)" is confusing since it auto-symmetrizes

File: FormalConjectures/Wikipedia/DiameterSimpleFiniteGroups.lean [hunk 2]
```diff
@@ -0,0 +1,84 @@
...
+def cayleyGraph {G : Type*} [Group G] (S : Set G) : SimpleGraph G :=
+  SimpleGraph.fromRel (fun g h => g⁻¹ * h ∈ S)
+
+/-- The diameter of a finite group $G$, defined as the maximum diameter of the Cayley graphs
+$\Gamma(G, A)$ over all generating sets $A$ of $G$.
+-/
+noncomputable def groupDiam (G : Type*) [Group G] [Fintype G] : ℕ :=
+  sSup { d : ℕ | ∃ S : Set G, Subgroup.closure S = ⊤ ∧ (cayleyGraph S).diam = d }
+
```
Comment (mo271) [inline FormalConjectures/Wikipedia/DiameterSimpleFiniteGroups.lean:60]:
```suggestion

/-- For the trivial group (with one element), the group diameter is zero, since
every Cayley graph has only one vertex and hence diameter zero. -/
@[category test, AMS 20]
theorem groupDiam_fin_one : groupDiam (alternatingGroup (Fin 0)) = 0 := by
  unfold groupDiam
  apply Nat.le_zero.mp
  apply csSup_le
  · exact ⟨0, Set.univ, Subgroup.closure_univ,
      SimpleGraph.diam_eq_zero.mpr (Or.inr inferInstance)⟩
  · rintro d ⟨S, _, hd⟩
    exact Nat.le_zero.mpr (hd ▸ SimpleGraph.diam_eq_zero.mpr (Or.inr inferInstance))

```
Perhaps let's add a test statment like this? Perhaps even an more interesting one as well?

**Comment by mo271** [comment]
> I am quite surprised that Mathlib does not have a Cayley Graph definition...

Me too, consider adding it to Mathlib? (Probably best to discuss on Zulip first...)

File: FormalConjectures/Wikipedia/DiameterSimpleFiniteGroups.lean (hunk 2 above)
Comment (franzhusch) [reply FormalConjectures/Wikipedia/DiameterSimpleFiniteGroups.lean:60]: Good idea!

**Comment by franzhusch** [comment]
Added some more test statements.
